US07459263B2
Synthesis of (2-methacryloxyethyl)thioxanthen-9-one-2-carboxylate (S-21)
A mixture of thioxanthen-9-one-2-carboxylic acid (3.8 g, 19.8 mmol), 2-hydroxyethylmethacrylate (7.7 g, 59.3mmol), 4-dimethylamino-pyridine p-toluenesulfonic acid salt (2.3 g, 7.9mmol), and anhydrous dichloromethane (31 mL) is cooled to 0° C. under nitrogen and treated with 1,3-dicyclohexyl-carbodiimide (2.1 g, 10.1 mmol). After 15 min, the reaction mixture was warmed to ambient and stirred for 12 h. The precipitated urea by product was filtered, and the filtrate was washed successively with 10% aqueous HCl, 10% aqueous NaHCO3, water, and brine. The solution was dried (Na2SO4)and concentrated to deposit yellow oil. The product was purified by column chromatography to provide 500 mg of a pale yellow solid (17% of theory). 1H (CDCl3): δ 1.99 (s, 3H), 4.60 (dd, 4H), 5.60 (s, 1H), 6.20 (s, 1H), 7.60 (m, 4H), 8.20 (d, 1H), 8.70 (d, 1H), 9.30 (s, 1H).

reactant | thioxanthen-9-one-2-carboxylic acid | 19.8 mmol, 3.8 g | C1=C(C=CC=2SC3=CC=CC=C3C(C12)=O)C(=O)O | C14H8O3S
reactant | 2-hydroxyethylmethacrylate | 59.3mmol, 7.7 g | OCCOC(C(=C)C)=O | C6H10O3
reactant | 4-dimethylamino-pyridine p-toluenesulfonic acid salt | 7.9mmol, 2.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.CN(C1=CC=NC=C1)C
reactant | 1,3-dicyclohexyl-carbodiimide | 10.1 mmol, 2.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 31 mL | ClCCl | CH2Cl2
product | (2-methacryloxyethyl)thioxanthen-9-one-2-carboxylate | 500 mg, 17% | C(C(=C)C)(=O)OCCOC(=O)C1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C20H16O5S
